US07094908B2
Ethyl 3-(4,7-dichloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (1.10 g, 74%) in the same manner as described in the above example 5 (20) from ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.80 g, 3.94 mmol) and 3,6-dichlorophthalic anhydride (0.94 g, 4.33 mmol), and the obtained product was identified with the following NMR data.

reactant | ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 3.94 mmol, 0.80 g | NCC(C(=O)OCC)C1(OCCO1)C | C9H17NO4
reactant | 3,6-dichlorophthalic anhydride | 4.33 mmol, 0.94 g | ClC1=C2C(C(=O)OC2=O)=C(C=C1)Cl | C8H2Cl2O3
product | Ethyl 3-(4,7-dichloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | ClC1=C2C(N(C(C2=C(C=C1)Cl)=O)CC(C(=O)OCC)C1(OCCO1)C)=O | C17H17Cl2NO6
